US06174881B1
19 g of 5-(2-fluoro-phenyl)-3H-thieno[2,3-e][1,4]diazepin-2-ylamine were dissolved in 730 ml of 5% methanol in dichloromethane, treated while stirring well with 327 g of a 2.8% solution of chlorine gas in 5% methanol in dichloromethane and stirred at room temperature under argon for 5 minutes. Thereafter, the reaction mixture was poured into 600 ml of 0.2N sodium hydroxide solution while cooling with ice and extracted. The dichloromethane extracts were dried with sodium sulphate, filtered and the solvent was evaporated in a vacuum. After two fold boiling of the residue in 5% methanol in dichloromethane and filtration there were obtained 7.4 g of 7-chloro-5-(2-fluoro-phenyl)-3H-thieno[2,3-e][1,4]diazepin-2-ylamine of m.p. 215-217° C. (dec.).

reactant | 5-(2-fluoro-phenyl)-3H-thieno[2,3-e][1,4]diazepin-2-ylamine | 19 g | FC1=C(C=CC=C1)C=1C2=C(N=C(CN1)N)SC=C2 | C13H10FN3S
reactant | chlorine | ClCl | Cl2
reactant | sodium hydroxide | 0.2N, 600 ml | [OH-].[Na+]
solvent | methanol | 730 ml | CO | CH4O
solvent | dichloromethane | ClCCl | CH2Cl2
product | 7-chloro-5-(2-fluoro-phenyl)-3H-thieno[2,3-e][1,4]diazepin-2-ylamine | 7.4 g | ClC1=CC2=C(N=C(CN=C2C2=C(C=CC=C2)F)N)S1 | C13H9ClFN3S
